US09284323B2
To a solution of 1-chloro-3-methyl-naphthalen-2-ol (9.05 g, 46.98 mmol) in dichloromethane (235 mL) at −78° C. was added trifluoromethanesulfonic anhydride (11.9 mL, 70.47 mmol), followed by 2,6-lutidine (8.2 mL, 70.47 mmol). The reaction mixture was stirred for 3 h to give a yellow solution, which was diluted with dichloromethane and washed with H2O/brine. The organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give trifluoro-methanesulfonic acid 1-chloro-3-methyl-naphthalen-2-yl ester. 1H NMR (400 MHz, CDCl3) δ 8.26 (d, J=8.2 Hz, 1H), 7.79 (d, J=7.9 Hz, 1H), 7.69 (s, 1H), 7.64-7.58 (m, 2H), 2.59 (s, 3H). 19F NMR (377 MHz, CDCl3) δ −72.9.

reactant | 1-chloro-3-methyl-naphthalen-2-ol | 46.98 mmol, 9.05 g | ClC1=C(C(=CC2=CC=CC=C12)C)O | C11H9ClO
reactant | trifluoromethanesulfonic anhydride | 70.47 mmol, 11.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 70.47 mmol, 8.2 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 235 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 1-chloro-3-methyl-naphthalen-2-yl ester | ClC1=C(C(=CC2=CC=CC=C12)C)OS(=O)(=O)C(F)(F)F | C12H8ClF3O3S
